US07465731B2
A mixture of ethyl 5,6-dichloronicotinate (5.0 g), tert-butyl (3R)-3-amino-1-pyrrolidinecarboxylate (5.08 g) and K2CO3 (4.71 g) in DMF (40 ml) was stirred at 100° C. for 12 hours under atmospheric pressure of nitrogen. The reaction mixture was poured into a mixture of AcOEt and H2O and the organic layer was washed with brine and dried over MgSO4. The solvent was evaporated in vacuo and the residue was chromatographed on silicagel eluting with n-Hexane-AcOEt (9:1). The eluted fractions containing the desired product were collected and evaporated in vacuo to give ethyl 6-{[(3R)-1-(tert-butoxycarbonyl)-3-pyrrolidinyl]amino}-5-chloronicotinate (6.6 g).

reactant | ethyl 5,6-dichloronicotinate | 5.0 g | ClC=1C(=NC=C(C(=O)OCC)C1)Cl | C8H7Cl2NO2
reactant | tert-butyl (3R)-3-amino-1-pyrrolidinecarboxylate | 5.08 g | N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | K2CO3 | 4.71 g | C(=O)([O-])[O-].[K+].[K+]
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | ethyl 6-{[(3R)-1-(tert-butoxycarbonyl)-3-pyrrolidinyl]amino}-5-chloronicotinate | 6.6 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)NC1=NC=C(C(=O)OCC)C=C1Cl | C17H24ClN3O4
